US07112590B2
tert-Butyl 2-[(2-amino-1,3-benzothiazol-6-yl)amino]-2-oxoethylcarbamate
The title compound was prepared from Boc-Gly-OH and 1,3-benzothiazol-2,6-diamine according to the procedure of EXAMPLE 51. The product was obtained as a yellow solid.

reactant | Boc-Gly-OH | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | 1,3-benzothiazol-2,6-diamine | S1C(=NC2=C1C=C(C=C2)N)N | C7H7N3S
product | tert-Butyl 2-[(2-amino-1,3-benzothiazol-6-yl)amino]-2-oxoethylcarbamate | Yield: 20% | NC=1SC2=C(N1)C=CC(=C2)NC(CNC(OC(C)(C)C)=O)=O | C14H18N4O3S
